US05536717
9-Bromo-1,2-dihydro-7-(2-propynyl)benzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6-one
A solution of 9-bromo-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6-one (8.0 gm, 25.4 mmoles) in dimethylformamide (DMF, 120 ml) was stirred with sodium hydride (50% oil suspension, 1.9 gm, 1.6 eq) at ~0° C. (water bath) for 1.5 hours. Propargyl bromide (80% wt in toluene, 7.5 gm, 2 eq) was charged in one portion. The mixture was stirred for 30 minutes. After the starting material was consumed (TLC, dichloromethane), the solution was diluted with dichloromethane, then washed with water (3×500 ml) and brine (2×500 ml). The solution was dried over MgSO4, and concentrated on a rotary evaporator to an oil.

reactant | 9-bromo-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6-one | 25.4 mmoles, 8.0 gm | BrC1=CC2=C(N3C4=C(C(N2)=O)C=CC=C4CC3)C=C1 | C15H11BrN2O
reactant | sodium hydride | 1.9 gm, 1.6 eq | [H-].[Na+]
reactant | water | O | H2O
reactant | Propargyl bromide | 7.5 gm, 2 eq | C(C#C)Br | C3H3Br
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 9-Bromo-1,2-dihydro-7-(2-propynyl)benzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6-one | BrC1=CC2=C(N3C4=C(C(N2CC#C)=O)C=CC=C4CC3)C=C1 | C18H13BrN2O
